### PR TITLE
feat(Combinatorics/SimpleGraph/Degree): degrees for infinite graphs

### PR DESCRIPTION
**Pull request by SnirBroshi**
Define `ENat` versions of `degree`/`minDegree`/`maxDegree` called `edegree`/`minEDegree`/`maxEDegree` respectively.

The `e` prefix matches the existing `edist`/`ediam`/`egirth`.

---

TODO (future work): `tsum G.edegree = 2 * G.edgeSet.encard` and then `ENat.card V * G.minEDegree ≤ 2 * G.edgeSet.encard ≤ ENat.card V * G.maxEDegree` (can we avoid topology [somehow](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Summing.20.60ENat.60s.20without.20topology/with/588756615)?)

- [x] depends on: #38244
- [x] depends on: #38354
- [x] depends on: #38355
- [x] depends on: #38356
- [x] depends on: #38612
- [ ] depends on: #40620
- [x] depends on: #38747
- [x] depends on: #40624

Note: this PR used to be a refactor of the existing `degree`/`maxDegree`/`minDegree`, see the edits of this description.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 1]
```diff
@@ -143,6 +143,13 @@ theorem Set.Finite.lt_ciInf_iff {s : Set ι} {f : ι → α} (hs : s.Finite)
     rw [← hx]
     exact H _ hmem
 
+theorem iSup_ne_top {ι α : Type*} {f : ι → α} [Finite ι] [Nontrivial α] [CompleteLinearOrder α]
+    (h : ∀ x, f x ≠ ⊤) : iSup f ≠ ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: Can you add the dual statement?

File: Mathlib/Data/Set/Card.lean [hunk 2]
```diff
@@ -589,6 +589,10 @@ theorem ncard_eq_toFinset_card' (s : Set α) [Fintype s] :
     s.ncard = s.toFinset.card := by
   simp [← _root_.Nat.card_coe_set_eq, Nat.card_eq_fintype_card]
 
+variable (s) in
+theorem ncard_eq_card [Fintype s] : s.ncard = Fintype.card s :=
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Card.lean]:
```suggestion
theorem ncard_eq_fintypeCard [Fintype s] : s.ncard = Fintype.card s :=
```

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean [hunk 3]
```diff
@@ -148,8 +149,8 @@ theorem IsEulerian.card_filter_odd_degree [Fintype V] [DecidableRel G.Adj] {u v
       ext x
       simp [hn, imp_iff_not_or]
 
-theorem IsEulerian.card_odd_degree [Fintype V] [DecidableRel G.Adj] {u v : V} {p : G.Walk u v}
-    (ht : p.IsEulerian) : Fintype.card { v : V | Odd (G.degree v) } = 0 ∨
+theorem IsEulerian.card_odd_degree [Fintype V] {u v : V} {p : G.Walk u v} (ht : p.IsEulerian) :
+    Fintype.card { v : V | Odd (G.degree v) } = 0 ∨
       Fintype.card { v : V | Odd (G.degree v) } = 2 := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Trails.lean]: Maybe even
```suggestion
    {v : V | Odd (G.degree v)}.ncard = 0 ∨ {v : V | Odd (G.degree v)}.ncard = 2 := by
```
so that you can replace `Fintype` with `Finite`

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean [hunk 4]
```diff
@@ -123,18 +123,19 @@ theorem IsEulerian.edgesFinset_eq [Fintype G.edgeSet] {u v : V} {p : G.Walk u v}
...
   change Multiset.card _ = _
   congr 1
   convert_to _ = (ht.isTrail.edgesFinset.filter (x ∈ ·)).val
   rw [ht.edgesFinset_eq, G.incidenceFinset_eq_filter x]
 
-theorem IsEulerian.card_filter_odd_degree [Fintype V] [DecidableRel G.Adj] {u v : V}
-    {p : G.Walk u v} (ht : p.IsEulerian) {s}
-    (h : s = (Finset.univ : Finset V).filter fun v => Odd (G.degree v)) :
+theorem IsEulerian.card_filter_odd_degree [Fintype V] {u v : V} {p : G.Walk u v} (ht : p.IsEulerian)
+    {s} (h : s = (Finset.univ : Finset V).filter fun v => Odd (G.degree v)) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Trails.lean]:
```suggestion
    {s : Finset V} (h : s = {v | Odd (G.degree v)}) :
```

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean [hunk 5]
```diff
@@ -123,18 +123,19 @@ theorem IsEulerian.edgesFinset_eq [Fintype G.edgeSet] {u v : V} {p : G.Walk u v}
   ext e
   simp [h.mem_edges_iff]
 
-theorem IsEulerian.even_degree_iff {x u v : V} {p : G.Walk u v} (ht : p.IsEulerian) [Fintype V]
-    [DecidableRel G.Adj] : Even (G.degree x) ↔ u ≠ v → x ≠ u ∧ x ≠ v := by
+theorem IsEulerian.even_degree_iff {x u v : V} {p : G.Walk u v} (ht : p.IsEulerian) [Finite V] :
+    Even (G.degree x) ↔ u ≠ v → x ≠ u ∧ x ≠ v := by
+  classical
+  have := Fintype.ofFinite V
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Trails.lean]:
```suggestion
  cases nonempty_fintype V
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 6]
```diff
@@ -320,6 +320,10 @@ theorem mapEdgeSet.injective (hinj : Function.Injective f) : Function.Injective
   repeat rw [Subtype.mk_eq_mk]
   apply Sym2.map.injective hinj
 
+theorem _root_.SimpleGraph.neighborSet_subset (hle : G₁ ≤ G₂) (v : V) :
+    G₁.neighborSet v ⊆ G₂.neighborSet v :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
@[gcongr]
theorem _root_.SimpleGraph.neighborSet_mono (hle : G₁ ≤ G₂) (v : V) :
    G₁.neighborSet v ⊆ G₂.neighborSet v :=
```

File: Mathlib/Combinatorics/SimpleGraph/DegreeSum.lean [hunk 7]
```diff
@@ -158,8 +157,8 @@ theorem odd_card_odd_degree_vertices_ne [Fintype V] [DecidableEq V] [DecidableRe
     lia
   · rwa [mem_filter_univ]
 
-theorem exists_ne_odd_degree_of_exists_odd_degree [Fintype V] [DecidableRel G.Adj] (v : V)
-    (h : Odd (G.degree v)) : ∃ w : V, w ≠ v ∧ Odd (G.degree w) := by
+theorem exists_ne_odd_degree_of_exists_odd_degree [Fintype V] (v : V) (h : Odd (G.degree v)) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/DegreeSum.lean]:
```suggestion
theorem exists_ne_odd_degree_of_exists_odd_degree [Finite V] (v : V) (h : Odd (G.degree v)) :
```

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 8]
```diff
@@ -170,92 +171,117 @@ theorem neighborFinset_disjoint_singleton : Disjoint (G.neighborFinset v) {v} :=
...
 
 @[simp]
 theorem card_neighborSet_eq_degree : Fintype.card (G.neighborSet v) = G.degree v :=
-  (Set.toFinset_card _).symm
+  Set.ncard_eq_card _ |>.symm
 
-theorem degree_pos_iff_exists_adj : 0 < G.degree v ↔ ∃ w, G.Adj v w := by
-  simp only [degree, card_pos, Finset.Nonempty, mem_neighborFinset]
+omit [Fintype <| G.neighborSet v] in
+theorem degree_pos_iff_exists_adj [Finite <| G.neighborSet v] : 0 < G.degree v ↔ ∃ w, G.Adj v w :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean]: Here and everywhere else, you have many `Finite` assumptions that should be turned into `Set.Finite`

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean (hunk 5 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Trails.lean]: This fails, though I'm not sure why. I also tried `have ⟨foo⟩ := nonempty_fintype V`

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean (hunk 3 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Trails.lean]: This changes the statement and I try to avoid unrelated changes in this PR, but okay

File: Mathlib/Combinatorics/SimpleGraph/Trails.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Trails.lean]: I half did this, kept `h` as an equality between `Finset`s and not `Set`s, since I couldn't fix the proof and I think this can be changed in a followup (though it changes the statement)

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean (hunk 8 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean]: `Set.Finite` is not a class (or rather, not a `def` instead of an `abbrev`) so this would require changing all the statements to accept another hypothesis

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean]: Indeed

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean]: I agree with this change but I'd rather leave this to a followup, it seems like quite a big change

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean]: But you must perform this change here. Otherwise, you are introducing a precedent for `Finite` to be used on sets.

File: Mathlib/Combinatorics/SimpleGraph/Degree.lean [hunk 9]
```diff
@@ -0,0 +1,362 @@
...
+
+theorem le_minEDegree_of_forall_le_edegree {n : ℕ∞} (h : ∀ v, n ≤ G.edegree v) : n ≤ G.minEDegree :=
+  le_iInf h
+
+@[simp]
+theorem maxEDegree_of_subsingleton [Subsingleton V] (G : SimpleGraph V) : G.maxEDegree = 0 := by
+  simp [maxEDegree_eq_iSup]
+
+@[simp]
+theorem minEDegree_of_isEmpty [IsEmpty V] (G : SimpleGraph V) : G.minEDegree = ⊤ :=
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Degree.lean:204]: You inherit `(G : SimpleGraph V)` from the variable block above but have it included in quite a few lemmas, could they be deleted or did you want to keep them explicit?

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Degree.lean:204]: I wanted to keep typeclass arguments (`IsEmpty V` in this case) as early as possible, see a3e8b99e2435214b09380e91d0f1ebb428bdde73

**Comment by SnirBroshi** [comment]
In dcc0b021d57b07cb2f05852e50b6a4aaf7c99a38 I replaced all these theorems:
```lean
theorem mem_support_iff_nonempty_neighborSet : v ∈ G.support ↔ (G.neighborSet v).Nonempty :=
theorem notMem_support_iff_neighborSet_eq_empty : v ∉ G.support ↔ G.neighborSet v = ∅ :=
theorem edegree_eq_zero_iff_neighborSet_eq_empty : G.edegree v = 0 ↔ G.neighborSet v = ∅ :=
theorem edegree_ne_zero_iff_nonempty_neighborSet : G.edegree v ≠ 0 ↔ (G.neighborSet v).Nonempty :=
theorem edegree_ne_zero_iff_exists_adj : G.edegree v ≠ 0 ↔ ∃ u, G.Adj v u :=
theorem Adj.edegree_ne_zero_left (h : G.Adj u v) : G.edegree u ≠ 0 :=
theorem Adj.edegree_ne_zero_right (h : G.Adj u v) : G.edegree v ≠ 0 :=
theorem edegree_ne_zero_iff_mem_support : G.edegree v ≠ 0 ↔ v ∈ G.support :=
theorem edegree_eq_zero_iff_notMem_support : G.edegree v = 0 ↔ v ∉ G.support :=
```
with these:
```lean
theorem notMem_support_iff_isIsolated : v ∉ G.support ↔ G.IsIsolated v := by
theorem exists_adj_iff_not_isIsolated : (∃ u, G.Adj v u) ↔ ¬G.IsIsolated v :=
theorem edegree_eq_zero_iff_isIsolated : G.edegree v = 0 ↔ G.IsIsolated v :=
theorem Adj.edegree_ne_zero_left (h : G.Adj u v) : G.edegree u ≠ 0 :=
theorem Adj.edegree_ne_zero_right (h : G.Adj u v) : G.edegree v ≠ 0 :=
```
relying on the new `G.IsIsolated v` to be the mediator instead of adding all possible iffs.
Any objections? And what do we think on `edegree ≠ 0` vs `0 < edegree`?

**Comment by SnirBroshi** [comment]
Okay, other than splitting this up I think I'm done
